* d:\esim\an\an.cir

.include INVCMOS.sub
.include NMOS-180nm.lib
.include PMOS-180nm.lib
m1 /q /qbar /vdd /vdd CMOSP W=0.9u L=0.18u M=1
m3 gnd /qbar /q gnd CMOSN W=0.36u L=0.18u M=1
m5 /vdd /q /qbar /vdd CMOSP W=0.9u L=0.18u M=1
m4 /qbar /q gnd gnd CMOSN W=0.36u L=0.18u M=1
m6 /blbar /wl /qbar gnd CMOSN W=0.36u L=0.18u M=1
m2 /q /wl /bl gnd CMOSN W=0.36u L=0.18u M=1
* u1  /blbar /qbar /q port
v1  /wl gnd pulse(1.8v 2.0v 5ns 50ns 3ns 10ns 80us)
x1 /bl /blbar INVCMOS
v2 /vdd gnd  dc 1.8v
v3  /bl gnd pulse(0v 1.8v 10ns 50ns 20ns 40us 80us)
.dc v3 0e-00 60e-00 10e-00

.SUBCKT precharge 
m1 vcc /bl gnd vcc CMOSP W=100u L=100u M=1
m2 vcc /bl gnd vcc CMOSP W=100u L=100u M=1
* u1  /bl port
.ends

.SUBCKT senseamp
m2 net-_m1-pad1_ net-_m1-pad1_ vcc vcc CMOSP W=100u L=100u M=1
m4 vcc net-_m1-pad1_ net-_m4-pad3_ vcc CMOSP W=100u L=100u M=1
m7 vcc net-_m4-pad3_ net-_m6-pad1_ vcc CMOSP W=100u L=100u M=1
m9 vcc net-_m6-pad1_ net-_m8-pad1_ vcc CMOSP W=100u L=100u M=1
m8 net-_m8-pad1_ net-_m6-pad1_ gnd gnd CMOSN W=0.36u L=0.18u M=1
m6 net-_m6-pad1_ net-_m4-pad3_ gnd gnd CMOSN W=100u L=100u M=1
m5 net-_m1-pad3_ /blbar net-_m4-pad3_ gnd CMOSN W=100u L=100u M=1
m1 net-_m1-pad1_ /bl net-_m1-pad3_ gnd CMOSN W=100u L=100u M=1
m3 net-_m1-pad3_ vcc gnd gnd CMOSN W=100u L=100u M=1
* u1  /bl /blbar net-_m8-pad1_ port
*.tran 10e-12 1e-09 oe-00 UIC
.IC V(1)=0
.ends

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
