* d:\esim\an\an.cir

.include INVCMOS.sub
.include NMOS-180nm.lib
.include PMOS-180nm.lib
m1  q  qbar  vdd  vdd CMOSP W=0.9u L=0.18u M=1
m3 gnd  qbar  q gnd CMOSN W=0.36u L=0.18u M=1
m5  vdd  q  qbar  vdd CMOSP W=0.9u L=0.18u M=1
m4  qbar   q gnd gnd CMOSN W=0.36u L=0.18u M=1
m6  blbar  wl  qbar gnd CMOSN W=0.36u L=0.18u M=1
m2  q  wl  bl gnd CMOSN W=0.36u L=0.18u M=1
* u1   blbar  qbar  q port
v1   wl gnd pulse(0v 1.8v 5ns 50ns 3ns 10ns 80us)
x1  bl  blbar INVCMOS
v2  vdd gnd  dc 1.8v
v3   bl gnd pulse(0v 1.8v 10ns 50ns 20ns 40us 80us)
.dc v3 2e-00 10e-00 0e-00

.SUBCKT precharge
m1 vcc  bl gnd vcc CMOSP W=0.9u L=0.18u M=1
m2 vcc  bl gnd vcc CMOSP W=0.9u L=0.18u M=1
* u1   bl port
.ends

.SUBCKT senseamp
m2 net-_m1-pad1_ net-_m1-pad1_ vcc vcc CMOSP W=0.9u L=0.18u M=1
m4 vcc net-_m1-pad1_ net-_m4-pad3_ vcc CMOSP W=0.9u L=0.18u M=1
m7 vcc net-_m4-pad3_ net-_m6-pad1_ vcc CMOSP W=0.9u L=0.18u M=1
m9 vcc net-_m6-pad1_ net-_m8-pad1_ vcc CMOSP W=0.9u L=0.18u M=1
m8 net-_m8-pad1_ net-_m6-pad1_ gnd gnd CMOSN W=0.36u L=0.18u M=1
m6 net-_m6-pad1_ net-_m4-pad3_ gnd gnd CMOSN W=0.36u L=0.18u M=1
m5 net-_m1-pad3_  blbar net-_m4-pad3_ gnd CMOSN W=0.36u L=0.18u M=1
m1 net-_m1-pad1_  bl net-_m1-pad3_ gnd CMOSN W=0.36u L=0.18u M=1
m3 net-_m1-pad3_ vcc gnd gnd CMOSN W=0.36u L=0.18u M=1
* u1   bl  blbar net-_m8-pad1_ port
.IC V(1)=0
.ends

* Control Statements
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end

