* d:\esim\an\an.cir

.include NMOS-180nm.lib
.include PMOS-180nm.lib
m1  q  qbar  vdd  vdd CMOSP W=0.9u L=0.18u M=1
m3 gnd  qbar  q gnd CMOSN W=0.36u L=0.18u M=1
m5  vdd  q  qbar  vdd CMOSP W=0.9u L=0.18u M=1
m4  qbar   q gnd gnd CMOSN W=0.36u L=0.18u M=1
m6  blbar  wl  qbar gnd CMOSN W=0.36u L=0.18u M=1
m2  q  wl  bl gnd CMOSN W=0.36u L=0.18u M=1
* u1   blbar  qbar  q port
v3   bl gnd pulse(0v 1.8v 10ns 50ns 20ns 40us 80us)
m8  blbar  bl  vdd  vdd CMOSP W=0.9u L=0.18u M=1
m7  blbar  bl gnd gnd CMOSN W=0.36u L=0.18u M=1
v1   wl gnd pulse(1.8v 2.0v 5ns 50ns 3ns 10ns 80us)
c1   q gnd capacitor
v2  vdd gnd  dc 1.8v
.tran 10e-09 100e-09 3e-09

.SUBCKT precharge
m1 vcc  bl gnd vcc CMOSP W=0.9u L=0.18u M=1
m2 vcc  bl gnd vcc CMOSP W=0.9u L=0.18u M=1
* u1   bl port
.ends

.SUBCKT senseamp
m2 net-_m1-pad1_ net-_m1-pad1_ vcc vcc CMOSP W=0.9u L=0.18u M=1
m4 vcc net-_m1-pad1_ net-_m4-pad3_ vcc CMOSP W=0.9u L=0.18u M=1
m7 vcc net-_m4-pad3_ net-_m6-pad1_ vcc CMOSP W=0.9u L=0.18u M=1
m9 vcc net-_m6-pad1_ net-_m8-pad1_ vcc CMOSP W=0.9u L=0.18u M=1
m8 net-_m8-pad1_ net-_m6-pad1_ gnd gnd CMOSN W=0.36u L=0.18u M=1
m6 net-_m6-pad1_ net-_m4-pad3_ gnd gnd CMOSN W=0.36u L=0.18u M=1
m5 net-_m1-pad3_  blbar net-_m4-pad3_ gnd CMOSN W=0.36u L=0.18u M=1
m1 net-_m1-pad1_  bl net-_m1-pad3_ gnd CMOSN W=0.36u L=0.18u M=1
m3 net-_m1-pad3_ vcc gnd gnd CMOSN W=0.36u L=0.18u M=1
* u1   bl  blbar net-_m8-pad1_ port
.IC V(1)=0
.ends

* Control Statements
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end

